US04983608
b. N-(6-Chloropyrimidin-4-yl)-9H-carbazol-9-amine
To 150 ml of 1-methyl-2-pyrrolidinone was added 10.0 g of 9H-carbazol-9-amine, and 8.2 g of 4,6-dichloropyrimidine, and the mixture was heated to 100° C. and stirred for eleven hours. The mixture was then poured into water and extracted with toluene. The organic layer was washed with water and dried (sat. NaCl, anhydrous MgSO4).

reactant | 1-methyl-2-pyrrolidinone | 150 ml | CN1C(CCC1)=O | C5H9NO
reactant | 9H-carbazol-9-amine | 10.0 g | C1=CC=CC=2C3=CC=CC=C3N(C12)N | C12H10N2
reactant | 4,6-dichloropyrimidine | 8.2 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | water | O | H2O
product | N-(6-Chloropyrimidin-4-yl)-9H-carbazol-9-amine | ClC1=CC(=NC=N1)NN1C2=CC=CC=C2C=2C=CC=CC12 | C16H11ClN4
